### PR TITLE
[Merged by Bors] - feat(Probability): sum of sub-Gaussian random variables is sub-Gaussian

### PR DESCRIPTION
**Pull request by paulorauber**
This PR continues the work from #25620.

Original PR: https://github.com/leanprover-community/mathlib4/pull/25620

### CODE REVIEW

**Comment by paulorauber** [comment]
## Comments from Original PR #25620

*This section contains 1 comment(s) from the original PR, excluding bot comments.*

---

**@github-actions** ([2025-06-09 11:15 UTC](https://github.com/leanprover-community/mathlib4/pull/25620#issuecomment-2955488899)):
### PR summary [fe653fb930](https://github.com/leanprover-community/mathlib4/pull/25620/commits/ee8a7da5357423ee3725ec3cad4a2b6b71158bbd)

#### Import changes for modified files

No significant changes to the import graph


<details><summary>Import changes for all files</summary>

|Files|Import difference|
|-|-|

</details>

---

#### Declarations diff

`+ add_of_HasSubgaussianMGF`
<details>
  <summary>You can run this locally as follows</summary>


```bash
## summary with just the declaration names:
./scripts/declarations_diff.sh <optional_commit>

## more verbose report:
./scripts/declarations_diff.sh long <optional_commit>
```
</details>

The doc-module for `script/declarations_diff.sh` contains some details about this script.

---

<details><summary>No changes to technical debt.</summary>

You can run this locally as
```
./scripts/technical-debt-metrics.sh pr_summary
```
* The `relative` value is the weighted *sum* of the differences with weight given by the *inverse* of the current value of the statistic.
* The `absolute` value is the `relative` value divided by the total sum of the inverses of the current values (i.e. the weighted *average* of the differences).
</details>

**Comment by paulorauber** [comment]
Considering the previous reviews, I generalized the proposed result to consider the sum of random variables that have a sub-Gaussian moment generating function with respect to a kernel and a measure (`ProbabilityTheory.Kernel.HasSubgaussianMGF.add`). In order to accomplish this, I have included a result that characterizes 0 sub-Gaussian random variables (`zero_subgaussian_ae_ae_zero`) and some minor lemmas. Finally, I specialized these results to random variables that have a sub-Gaussian moment generating function with respect to a measure.

File: Mathlib/Probability/Moments/SubGaussian.lean [hunk 1]
```diff
@@ -164,6 +164,22 @@ lemma ae_forall_integrable_exp_mul (h : HasSubgaussianMGF X c κ ν) :
...
+    · by_cases hp : p = 0
+      · simp [hp]
+      · rw [eLpNorm_lt_top_iff_lintegral_rpow_enorm_lt_top (mod_cast hp) (by simp),
+          ENNReal.coe_toReal]
+        have hf := (hi (p * t)).2
+        rw [hasFiniteIntegral_def] at hf
+        convert hf using 3 with ω
+        rw [enorm_eq_ofReal (by positivity), enorm_eq_ofReal (by positivity),
+          ENNReal.ofReal_rpow_of_nonneg (by positivity), ← exp_mul, mul_comm, ← mul_assoc]
+        positivity
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments/SubGaussian.lean]: Two remarks:
- if you have a case distinction with a very short first case and then a main proof, you don't have to use a focus dot and indent the main proof (that prevents accumulating a lot of indentation levels)
- using `Integrable.lintegral_lt_top` shortens the proof slightly
```suggestion
      rw [eLpNorm_lt_top_iff_lintegral_rpow_enorm_lt_top (mod_cast hp) (by simp),
        ENNReal.coe_toReal]
      have hf := (hi (p * t)).lintegral_lt_top
      convert hf using 3 with ω
      rw [enorm_eq_ofReal (by positivity), ENNReal.ofReal_rpow_of_nonneg (by positivity),
        ← exp_mul, mul_comm, ← mul_assoc]
      positivity
```

File: Mathlib/Probability/Moments/SubGaussian.lean [hunk 2]
```diff
@@ -164,6 +164,22 @@ lemma ae_forall_integrable_exp_mul (h : HasSubgaussianMGF X c κ ν) :
   filter_upwards [h_int] with ω' h_int t
   exact integrable_exp_mul_of_le_of_le (h_int _) (h_int _) (Int.floor_le t) (Int.le_ceil t)
 
+lemma ae_forall_memLp_exp_mul (h : HasSubgaussianMGF X c κ ν) (p : ℝ≥0) :
+    ∀ᵐ ω' ∂ν, ∀ t, MemLp (fun ω ↦ exp (t * X ω)) p (κ ω') := by
+    filter_upwards [h.ae_forall_integrable_exp_mul] with ω' hi t
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments/SubGaussian.lean]: The indentation should be 4 spaces for the statement and then 2 spaces for the proof:
```suggestion
lemma ae_forall_memLp_exp_mul (h : HasSubgaussianMGF X c κ ν) (p : ℝ≥0) :
    ∀ᵐ ω' ∂ν, ∀ t, MemLp (fun ω ↦ exp (t * X ω)) p (κ ω') := by
  filter_upwards [h.ae_forall_integrable_exp_mul] with ω' hi t
```
(and please adjust the indentation level of the whole proof)

File: Mathlib/Probability/Moments/SubGaussian.lean [hunk 3]
```diff
@@ -239,6 +255,12 @@ lemma zero_kernel : HasSubgaussianMGF X c (0 : Kernel Ω' Ω) ν := by
 @[simp]
 lemma zero_measure : HasSubgaussianMGF X c κ (0 : Measure Ω') := ⟨by simp, by simp⟩
 
+lemma neg {c : ℝ≥0} (h : HasSubgaussianMGF X c κ ν) : HasSubgaussianMGF (-X) c κ ν where
+  integrable_exp_mul t := by simpa using h.integrable_exp_mul (-t)
+  mgf_le := by
+    filter_upwards [h.mgf_le] with ω' hm t
+    simpa [mgf] using hm (-t)
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments/SubGaussian.lean]: you could put that on one line (see the `using` keyword of the `filter_upwards` tactic)
```suggestion
  mgf_le := by filter_upwards [h.mgf_le] with ω' hm t using by simpa [mgf] using hm (-t)
```

File: Mathlib/Probability/Moments/SubGaussian.lean [hunk 4]
```diff
@@ -298,8 +320,107 @@ lemma measure_ge_le (h : HasSubgaussianMGF X c κ ν) {ε : ℝ} (hε : 0 ≤ ε
 
 end ChernoffBound
 
+section Zero
+
+lemma zero_subgaussian_ae_zero_lt_null (h : HasSubgaussianMGF X 0 κ ν) :
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments/SubGaussian.lean]: The format of the names should be `conclusion_of_hypothesis1_of_hypothesis2`, etc. Also since the name of the property used is `HasSubgaussianMGF`, we will put that exact same name in the lemma name. It helps finding lemmas. Also `0 < ...` is refered to by `pos` in names.
So here perhaps
```suggestion
lemma measure_pos_eq_zero_of_hasSubGaussianMGF_zero (h : HasSubgaussianMGF X 0 κ ν) :
```

File: Mathlib/Probability/Moments/SubGaussian.lean [hunk 5]
```diff
@@ -298,8 +320,107 @@ lemma measure_ge_le (h : HasSubgaussianMGF X c κ ν) {ε : ℝ} (hε : 0 ≤ ε
...
+      exact Filter.Tendsto.atTop_mul_const (ε.cast_pos.2 hε) (fun _ a ↦ a)
+    apply le_antisymm
+    · exact ge_of_tendsto hl (Filter.eventually_atTop.2 ⟨0, hm⟩)
+    · exact measureReal_nonneg
+  /- `ν`-almost everywhere, `{ω | 0 < X ω}` is a countable union of `κ ω'`-null sets. -/
+  filter_upwards [ae_all_iff.2 hb] with ω' hn
+  simp only [hs, measure_iUnion_null_iff, Subtype.forall]
+  exact fun _ ↦ hn _
+
+lemma zero_subgaussian_ae_ae_zero (h : HasSubgaussianMGF X 0 κ ν) : ∀ᵐ ω' ∂ν, X =ᵐ[κ ω'] 0 := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments/SubGaussian.lean]:
```suggestion
lemma ae_eq_zero_of_hasSubgaussianMGF_zero (h : HasSubgaussianMGF X 0 κ ν) : ∀ᵐ ω' ∂ν, X =ᵐ[κ ω'] 0 := by
```

File: Mathlib/Probability/Moments/SubGaussian.lean [hunk 6]
```diff
@@ -298,8 +320,107 @@ lemma measure_ge_le (h : HasSubgaussianMGF X c κ ν) {ε : ℝ} (hε : 0 ≤ ε
...
+    ext ω
+    simp only [Set.mem_setOf_eq, Set.mem_iUnion, Subtype.exists, exists_prop]
+    constructor
+    · intro hp
+      obtain ⟨q, h1, h2⟩ := exists_rat_btwn hp
+      exact ⟨q, (q.cast_pos.1 h1), h2.le⟩
+    · intro ⟨q, h1, h2⟩
+      exact lt_of_lt_of_le (q.cast_pos.2 h1) h2
+  have hb : ∀ ε : ℚ, ∀ᵐ ω' ∂ν, 0 < ε → (κ ω') {ω | ε ≤ X ω} = 0 := by
+    intro ε
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments/SubGaussian.lean]:
```suggestion
  have hb (ε : ℚ) : ∀ᵐ ω' ∂ν, 0 < ε → (κ ω') {ω | ε ≤ X ω} = 0 := by
```

File: Mathlib/Probability/Moments/SubGaussian.lean [hunk 7]
```diff
@@ -298,8 +320,107 @@ lemma measure_ge_le (h : HasSubgaussianMGF X c κ ν) {ε : ℝ} (hε : 0 ≤ ε
...
+  calc (κ ω') {ω | X ω ≠ 0}
+  _ = (κ ω') {ω | X ω < 0 ∨ 0 < X ω} := by simp_rw [ne_iff_lt_or_gt]
+  _ ≤ (κ ω') {ω | X ω < 0} + (κ ω') {ω | 0 < X ω} := measure_union_le _ _
+  _ = 0 := by simp [h1, h2]
+
+end Zero
+
 section Add
 
+lemma add_integrable_exp_mul {Y : Ω → ℝ} {cX cY : ℝ≥0} (hX : HasSubgaussianMGF X cX κ ν)
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments/SubGaussian.lean]:
```suggestion
lemma integrable_exp_mul_add {Y : Ω → ℝ} {cX cY : ℝ≥0} (hX : HasSubgaussianMGF X cX κ ν)
```
That corresponds better to the order of the operations in the result

File: Mathlib/Probability/Moments/SubGaussian.lean [hunk 8]
```diff
@@ -298,8 +320,107 @@ lemma measure_ge_le (h : HasSubgaussianMGF X c κ ν) {ε : ℝ} (hε : 0 ≤ ε
...
+  integrable_exp_mul := hX.add_integrable_exp_mul hY
+  mgf_le := by
+    filter_upwards [hY.zero_subgaussian_ae_ae_zero, hX.mgf_le] with ω' hYz hXm t
+    calc
+    _ = mgf X (κ ω') t := by
+      apply integral_congr_ae
+      filter_upwards [hYz] with ω hY0
+      simp [hY0]
+    _ ≤ exp (c * t ^ 2 / 2) := by
+      exact hXm t
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments/SubGaussian.lean]: That lemma does not seem useful. Y is zero in that case, so we should just simplify it away and not need this lemma.

File: Mathlib/Probability/Moments/SubGaussian.lean (hunk 5 above)
Comment (RemyDegenne) [inline Mathlib/Probability/Moments/SubGaussian.lean]: You can strenghen this to almost everywhere zero with respect to the composition, which will allow you to use this in `HasSubgaussianMGF.congr` further down:
```lean
/-- Auxiliary lemma for `ae_eq_zero_of_hasSubgaussianMGF_zero'`. -/
lemma ae_eq_zero_of_hasSubgaussianMGF_zero_of_measurable
    (hX : Measurable X) (h : HasSubgaussianMGF X 0 κ ν) :
    X =ᵐ[κ ∘ₘ ν] 0 := by
  rw [Filter.EventuallyEq, Measure.ae_comp_iff (measurableSet_eq_fun hX (by fun_prop))]
  exact h.zero_subgaussian_ae_ae_zero

lemma ae_eq_zero_of_hasSubgaussianMGF_zero' (h : HasSubgaussianMGF X 0 κ ν) :
    X =ᵐ[κ ∘ₘ ν] 0 := by
  have hX := h.aestronglyMeasurable
  have h' : HasSubgaussianMGF (hX.mk X) 0 κ ν := h.congr hX.ae_eq_mk
  exact hX.ae_eq_mk.trans (ae_eq_zero_of_hasSubgaussianMGF_zero_of_measurable hX.measurable_mk h')
```
For that code to work, please add these two lemmas after `ae_ae_of_ae_comp` in the file Probability/Kernel/Composition/MeasureComp
```lean
lemma ae_comp_of_ae_ae {p : β → Prop} (hp : MeasurableSet {z | p z})
    (h : ∀ᵐ y ∂μ, ∀ᵐ z ∂κ y, p z) : ∀ᵐ z ∂(κ ∘ₘ μ), p z := by
  rw [comp_eq_comp_const_apply]
  exact Kernel.ae_comp_of_ae_ae hp h

lemma ae_comp_iff {p : β → Prop} (hp : MeasurableSet {z | p z}) :
    (∀ᵐ z ∂(κ ∘ₘ μ), p z) ↔ ∀ᵐ y ∂μ, ∀ᵐ z ∂κ y, p z :=
  ⟨ae_ae_of_ae_comp, ae_comp_of_ae_ae hp⟩
```

File: Mathlib/Probability/Moments/SubGaussian.lean [hunk 9]
```diff
@@ -298,8 +320,107 @@ lemma measure_ge_le (h : HasSubgaussianMGF X c κ ν) {ε : ℝ} (hε : 0 ≤ ε
...
+
+lemma add {Y : Ω → ℝ} {cX cY : ℝ≥0} (hX : HasSubgaussianMGF X cX κ ν)
+    (hY : HasSubgaussianMGF Y cY κ ν) :
+    HasSubgaussianMGF (fun ω ↦ X ω + Y ω) ((cX.sqrt + cY.sqrt) ^ 2) κ ν where
+  integrable_exp_mul := hX.add_integrable_exp_mul hY
+  mgf_le := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments/SubGaussian.lean]: It could be better to deal with the two zero cases first then the main proof:
```suggestion
lemma add {Y : Ω → ℝ} {cX cY : ℝ≥0} (hX : HasSubgaussianMGF X cX κ ν)
    (hY : HasSubgaussianMGF Y cY κ ν) :
    HasSubgaussianMGF (fun ω ↦ X ω + Y ω) ((cX.sqrt + cY.sqrt) ^ 2) κ ν := by
  by_cases hX0 : cX = 0
  · simp only [hX0, NNReal.sqrt_zero, zero_add, NNReal.sq_sqrt] at hX ⊢
    refine hY.congr ?_
    filter_upwards [ae_eq_zero_of_hasSubgaussianMGF_zero' hX] with ω hX0 using by simp [hX0]
  by_cases hY0 : cY = 0
  · simp only [hY0, NNReal.sqrt_zero, add_zero, NNReal.sq_sqrt] at hY ⊢
    refine hX.congr ?_
    filter_upwards [ae_eq_zero_of_hasSubgaussianMGF_zero' hY] with ω hY0 using by simp [hY0]
  exact
  { integrable_exp_mul := hX.add_integrable_exp_mul hY
    mgf_le := by
```
See that you don't need `add_zero_subgaussian` there (because I use the new a.e. zero lemma with respect to the composition that I introduced in another comment).

**Review by RemyDegenne — COMMENTED** [review]
Thanks for the PR. The code looks good!

File: Mathlib/Probability/Moments/SubGaussian.lean (hunk 9 above)
Comment (paulorauber) [reply Mathlib/Probability/Moments/SubGaussian.lean]: Thanks once again for the detailed feedback! It's been very instructive. I have adopted all suggestions in  the latest commit.

**Review by RemyDegenne — APPROVED** [review]
Thanks! Very nice first PR!
bors r+
